US08536168B2
3-[4-(1H-Indol-3-yl)-piperidine-1-carbonyl]-benzonitrile (Compound 63)
3-Cyano-benzoic acid (0.09 g, 0.6 mmol) is dissolved in 3 ml of DMF, then HBTU (0.28 g, 0.75 mmol), HOBt (0.10 g, 0.75 mmol) and DIPEA (0.26 g, 2.0 mmol) are added. The mixture is stirred at RT for 20 min before adding the 3-piperidin-4-yl-1H-indole (0.09 g, 0.6 mmol). The reaction was stirred at RT for 3 hours, monitored with LC/MS. The organic solvent is removed under the reduced pressure and the residue is purified by a silica gel flash column using heptane and ethyl acetate as the elutes.

reactant | 3-Cyano-benzoic acid | 0.6 mmol, 0.09 g | C(#N)C=1C=C(C(=O)O)C=CC1 | C8H5NO2
reactant | HBTU | 0.75 mmol, 0.28 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBt | 0.75 mmol, 0.10 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 2.0 mmol, 0.26 g | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-piperidin-4-yl-1H-indole | 0.6 mmol, 0.09 g | N1CCC(CC1)C1=CNC2=CC=CC=C12 | C13H16N2
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 3-[4-(1H-Indol-3-yl)-piperidine-1-carbonyl]-benzonitrile | N1C=C(C2=CC=CC=C12)C1CCN(CC1)C(=O)C=1C=C(C#N)C=CC1 | C21H19N3O
